US04308277
11.5 g of D,L-1,2-diphenylethylenediamine (melting point 70°-71°), which is obtainable by reduction of benzil dioxime with sodium in ethanol, are dissolved in 230 ml of carbon disulfide. The solution is stirred for 3 hours and evaporated to dryness. The residue is taken up in a mixture of 40 ml of ethanol and 40 ml of water, 0.6 ml of concentrated hydrochloric acid is added and the mixture is refluxed for 48 hours. It is then evaporated to dryness and the residue is recrystallised from a mixture of ethanol and acetone. Trans-4,5-Diphenylimidazolidine-2-thione with a melting point of 223°-225° is obtained.

reactant | benzil dioxime | C1(=CC=CC=C1)C(C(C1=CC=CC=C1)=NO)=NO | C14H12N2O2
reactant | sodium | [Na] | Na
reactant | carbon disulfide | 230 ml | C(=S)=S | CS2
solvent | ethanol | C(C)O | C2H6O
product | Trans-4,5-Diphenylimidazolidine-2-thione | C1(=CC=CC=C1)[C@@H]1NC(N[C@H]1C1=CC=CC=C1)=S | C15H14N2S
